* Parallel delay-aware Cisco S-parameter macromodel
* Fitted for 50 ohm source/load transient waveform correlation.
.subckt s_equivalent p1 p2 p3 p4
Tdelay p1 0 ndelay 0 Z0=50 TD=12.44142675n
Rdelay_term ndelay 0 50
Rleak_p2 p2 0 1e12
Rleak_p4 p4 0 1e12
Rsum sum 0 1
Ebrsrc1 brsrc1 0 ndelay 0 1
Rbr1 brsrc1 br1 1000
Cbr1 br1 0 6.98811231128e-14
Gsum1 0 sum br1 0 0.00202937756968
Ebrsrc2 brsrc2 0 ndelay 0 1
Rbr2 brsrc2 br2 1000
Cbr2 br2 0 8.46454558228e-14
Gsum2 0 sum br2 0 0.0944388773785
Ebrsrc3 brsrc3 0 ndelay 0 1
Rbr3 brsrc3 br3 1000
Cbr3 br3 0 1.45768304363e-13
Gsum3 0 sum br3 0 0.54904225028
Ebrsrc4 brsrc4 0 ndelay 0 1
Rbr4 brsrc4 br4 1000
Cbr4 br4 0 1.02340890372e-12
Gsum4 0 sum br4 0 0.254825664826
Eout outdrv 0 sum 0 2
Rout outdrv p3 50
.ends s_equivalent
