* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.022789566781089524
Fd1_1 0 s1 V1 -1.1394783390544763
Gr1_1_1 0 s1 x1_a1 0 -1.430565649712191e+33
Gr2_1_1 0 s1 x2_a1 0 -4.6352171264094745e+20
Gr3_1_1 0 s1 x3_a1 0 -2452878778318383.0
Gr4_1_1 0 s1 x4_a1 0 -1948298481100.869
Gr5_re_1_1 0 s1 x5_re_a1 0 -1143510403.21008
Gr5_im_1_1 0 s1 x5_im_a1 0 1256236658.5258093
Gr6_re_1_1 0 s1 x6_re_a1 0 -12062052.85340327
Gr6_im_1_1 0 s1 x6_im_a1 0 12967629.623430083
Gr7_re_1_1 0 s1 x7_re_a1 0 -581747.8303903233
Gr7_im_1_1 0 s1 x7_im_a1 0 550837.0681612944
Gr8_1_1 0 s1 x8_a1 0 130458.84399722032
Gr9_1_1 0 s1 x9_a1 0 130464.24268014828
Gd1_2 0 s1 p2 0 0.0018344791828525894
Fd1_2 0 s1 V2 0.09172395914262947
Gr1_1_2 0 s1 x1_a2 0 1.1515545377890417e+32
Gr2_1_2 0 s1 x2_a2 0 3.731185155066586e+19
Gr3_1_2 0 s1 x3_a2 0 197448029633369.28
Gr4_1_2 0 s1 x4_a2 0 156831118298.28415
Gr5_re_1_2 0 s1 x5_re_a2 0 92049423.06891757
Gr5_im_1_2 0 s1 x5_im_a2 0 -101134075.45597929
Gr6_re_1_2 0 s1 x6_re_a2 0 971763.601299076
Gr6_im_1_2 0 s1 x6_im_a2 0 -1055222.1616612475
Gr7_re_1_2 0 s1 x7_re_a2 0 48536.00473661231
Gr7_im_1_2 0 s1 x7_im_a2 0 -57080.381050891425
Gr8_1_2 0 s1 x8_a2 0 -47.17943524682965
Gr9_1_2 0 s1 x9_a2 0 -47.61401004771275
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.2529070531581833e-34
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 6.953140175202446e-22
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 1.3139383285170826e-16
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 1.654228660035121e-13
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 2.5765725415382964e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 3532420882.1868725
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -3532420882.1868725
Rp5_im_im_a1 0 x5_im_a1 2.5765725415382964e-10
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 2.462175958202856e-08
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 37330265.119977675
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -37330265.119977675
Rp6_im_im_a1 0 x6_im_a1 2.462175958202856e-08
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 4.4419302500761887e-07
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 1847375.3218689281
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -1847375.3218689281
Rp7_im_im_a1 0 x7_im_a1 4.4419302500761887e-07
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 1.3101450012405285e-05
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 1.3104325892688832e-05
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.001834542302861332
Fd2_1 0 s2 V1 0.0917271151430666
Gr1_2_1 0 s2 x1_a1 0 1.1515941600061656e+32
Gr2_2_1 0 s2 x2_a1 0 3.731313536157965e+19
Gr3_2_1 0 s2 x3_a1 0 197454823344343.56
Gr4_2_1 0 s2 x4_a1 0 156836514479.17755
Gr5_re_2_1 0 s2 x5_re_a1 0 92052590.2658092
Gr5_im_2_1 0 s2 x5_im_a1 0 -101137555.21055742
Gr6_re_2_1 0 s2 x6_re_a1 0 971797.0355572992
Gr6_im_2_1 0 s2 x6_im_a1 0 -1055258.4442716676
Gr7_re_2_1 0 s2 x7_re_a1 0 48537.67098454681
Gr7_im_2_1 0 s2 x7_im_a1 0 -57082.31700024674
Gr8_2_1 0 s2 x8_a1 0 -47.20407536471258
Gr9_2_1 0 s2 x9_a1 0 -47.638665118267944
Gd2_2 0 s2 p2 0 -0.02278937515185467
Fd2_2 0 s2 V2 -1.1394687575927334
Gr1_2_2 0 s2 x1_a2 0 -1.430553620602401e+33
Gr2_2_2 0 s2 x2_a2 0 -4.635178150543026e+20
Gr3_2_2 0 s2 x3_a2 0 -2452858152946782.0
Gr4_2_2 0 s2 x4_a2 0 -1948282098563.275
Gr5_re_2_2 0 s2 x5_re_a2 0 -1143500787.8918636
Gr5_im_2_2 0 s2 x5_im_a2 0 1256226095.8962529
Gr6_re_2_2 0 s2 x6_re_a2 0 -12061951.471088316
Gr6_im_2_2 0 s2 x6_im_a2 0 12967521.188067025
Gr7_re_2_2 0 s2 x7_re_a2 0 -581743.0294627692
Gr7_im_2_2 0 s2 x7_im_a2 0 550833.1137465816
Gr8_2_2 0 s2 x8_a2 0 130457.19116776284
Gr9_2_2 0 s2 x9_a2 0 130462.5898052952
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.2529070531581833e-34
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 6.953140175202446e-22
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 1.3139383285170826e-16
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 1.654228660035121e-13
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 2.5765725415382964e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 3532420882.1868725
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -3532420882.1868725
Rp5_im_im_a2 0 x5_im_a2 2.5765725415382964e-10
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 2.462175958202856e-08
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 37330265.119977675
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -37330265.119977675
Rp6_im_im_a2 0 x6_im_a2 2.462175958202856e-08
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 4.4419302500761887e-07
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 1847375.3218689281
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -1847375.3218689281
Rp7_im_im_a2 0 x7_im_a2 4.4419302500761887e-07
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 1.3101450012405285e-05
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 1.3104325892688832e-05
.ENDS s_equivalent
